US04990508
To 250 mg of ethyl 10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylate were added 2.5 ml of a 1N aqueous sodium hydroxide solution, 2.5 ml of ethanol and 2.5 ml of dioxane in this order. The resulting mixture was stirred at room temperature for 1.5 hours. To the reaction mixture were added 10 ml of water and 20 ml of ethyl acetate in this order. The resulting mixture was adjusted to pH 3 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. Diethyl ether was added to the residue obtained and the resulting crystals were collected by filtration to obtain 200 mg (yield: 87.3%) of 10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid.

reactant | ethyl 10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylate | 250 mg | C1(CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)OCC)F | C18H18FNO4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 10-cyclopropyl-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 200 mg, yield: 87.3% | C1(CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C16H14FNO4
